Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
codeine / Penicillins / eggs
 
Attending: ___.
 
Chief Complaint:
Hydronephrosis
 
Major Surgical or Invasive Procedure:
Placement of bilateral percutaneous nephrostomy tubes

 
History of Present Illness:
___ yo G4P4 with history of hypertension and
___ transferred from ___ with vaginal
discharge and large cervical mass, ___, hypokalemia. She reports
that she has noted that her prolapse was protruding outside of
her body since at least ___ year ago. She noticed worsening 
vaginal
discharge and odor last month and had a biopsy done by Dr.
___ at ___, reportedly showing cervical
squamous cell carcinoma. She was treated for UTI with 7 day
course of cipro 2 weeks ago. Denies dysuria. She was seen by her
PCP and advised to present to the ED for further treatment and
given cervical mass, was transferred to ___ ED for GYN ONC 
work
up. Patient denies weight loss except in the last two weeks due
to antibiotics upsetting her stomach, denies vaginal bleeding,
nausea, vomiting, fevers, chills. 
 
Past Medical History:
PMH: hypertension, hypothyroidism

PSH: tonsillectomy

POBHx: G4P4, SVD x4, no complications

 
Physical Exam:
General: NAD, comfortable appearing.
Neuro: AxO x 3, affect appropriate.
Cardiovascular: RRR, no rubs/murmurs/gallops.
Pulmonary: normal rate and work of breathing, Lungs CTAB
Abdomen: normoactive bowel sounds. Soft, nontender to palpation,
nondistended. No rebound/guarding. 
GU: yellow discharge on pad; no foley
Ext: Lower extremities without edema, erythema, or TTP
 
Pertinent Results:
___ 07:20AM BLOOD WBC-23.3* RBC-2.89* Hgb-8.0* Hct-25.4* 
MCV-88 MCH-27.7 MCHC-31.5* RDW-13.2 RDWSD-42.0 Plt ___
___ 11:20PM BLOOD WBC-25.5* RBC-3.23* Hgb-9.1* Hct-28.3* 
MCV-88 MCH-28.2 MCHC-32.2 RDW-13.2 RDWSD-41.2 Plt ___
___ 07:27AM BLOOD Neuts-78.2* Lymphs-14.7* Monos-5.3 
Eos-0.5* Baso-0.4 Im ___ AbsNeut-19.88* AbsLymp-3.74* 
AbsMono-1.34* AbsEos-0.13 AbsBaso-0.09*
___ 07:20AM BLOOD Glucose-91 UreaN-14 Creat-1.6* Na-140 
K-3.6 Cl-103 HCO3-22 AnGap-15
___ 11:20PM BLOOD Glucose-97 UreaN-16 Creat-1.6* Na-131* 
K->10.0* Cl-97 HCO3-21* AnGap-13
___ 07:27AM BLOOD ALT-10 AST-16
___ 11:20PM BLOOD ALT-<5 AST-60* AlkPhos-95 TotBili-0.4
___ 07:20AM BLOOD Calcium-8.4 Phos-4.3 Mg-2.0
___ 11:20PM BLOOD Albumin-2.7* Calcium-7.7* Phos-3.7 Mg-2.4

MRI (final read ___: 
1. Pelvic mass likely arising from the cervix measuring 9 x 12 x
5 cm.  The mass invades the distal ___ of the anterior uterine
wall and extends through the introitus.  The vaginal canal is 
not
definitively visualized but given the extent of the mass the
upper third of the vagina is likely involved.  A fluid 
containing structure just anterior to the lower uterus is of
indeterminate origin and may represent trapped fluid within the
displaced vaginal canal or trapped fluid within  the peritoneal
reflection. 
2. Enlarged left external iliac node concerning for metastatic 
lymphadenopathy. 
3. Severe prolapse of the uterus and urinary bladder with
bilateral ureteral obstruction, likely secondary to prolapse and
not direct tumor invasion. 

Ultrasound Final Read: 
FINDINGS:  
The right kidney measures 11.6 cm. The left kidney measures 12.3
cm. There is severe bilateral hydronephrosis. There are no 
stones
or masses bilaterally. Normal cortical echogenicity and
corticomedullary differentiation are seen bilaterally. 
The bladder is only minimally distended and can not be fully
assessed on the current study. 
Incidental note is made of a gallbladder filled with sludge, 
with
a stone at the fundus, without wall thickening. 
IMPRESSION:    
Severe bilateral hydronephrosis. Sludge filled gallbladder with
stone at the fundus, without wall thickening. 

CT Final read: 
IMPRESSION: 
1. Nondiagnostic evaluation for a reported cervical mass as the 
lower uterine segment, cervix and perineum were not included in 
the field of view of this CT. 
2. Severe bilateral hydroureteronephrosis through the visualized 
pelvis, 
although the distal ureter/UVJ extends beyond the field of view. 

3. Slightly prominent porta hepatis node measuring up to 1.1 cm 
is 
nonspecific.  No other evidence of metastases in the abdomen or 
pelvis, within the limitations of this noncontrast study. 

 
Brief Hospital Course:
Ms. ___ was admitted to the GYN oncology service for workup 
and management of her acute kidney injury and hydronephrosis.  
Her hospital course is summarized as follows:

# Cervical mass: 
On physical exam, Ms. ___ was confirmed to have significant 
uterine prolapse with a large cervical mass.  This mass had been 
biopsied by Dr. ___ at ___, and these 
slides were sent to ___ diagnostic___ for review.  The 
pathology report was notable for invasive keratinizing squamous 
cell carcinoma, well-differentiated.

# Hydronephrosis, obstructive ___:
CT abdomen pelvis revealed severe bilateral 
hydroureteronephrosis nephrosis likely due to obstruction, but 
the ureterovesical junction was noted to be outside of the 
field-of-view due to significant uterine prolapse.  Follow-up 
MRI revealed a 9 x 12 x 5 cm fungating mass involving the lower 
two thirds of the uterus, enlarged left external iliac nodes 
concerning for metastatic lymphadenopathy, and bilateral 
hydroureter.  She was seen by urology who recommended bilateral 
percutaneous nephrostomy tubes, which were replaced by 
interventional radiology on ___.  An ___ medical 
oncology consult was deferred given her clinical stability and 
current AK I.  She tolerated placement of the percutaneous 
nephrostomy tubes well.

# Hypokalemia: 
She has been noted to have mild hypokalemia since ___.  During 
the stay, she received potassium repletion for low phosphate 
levels, and was stable at discharge.

By hospital day 4, her percutaneous nephrostomy tubes have been 
placed, and she remained stable.  Outpatient medical oncology 
and radiation oncology appointments were established for her at 
___.  She was discharged home in stable 
condition with close follow-up.
 
Medications on Admission:
1.  amLODIPine 10 mg PO DAILY  
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Levothyroxine Sodium 88 mcg PO DAILY  
4.  Ramipril 10 mg PO DAILY  

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Levothyroxine Sodium 88 mcg PO DAILY  
4.  Ramipril 10 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Hydronephrosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
 .
 You were admitted to the gynecologic oncology for management of 
your obstruction.  You underwent placement of bilateral 
percutaneous nephrostomy tubes. You have recovered well, and the 
team feels that you are safe to be discharged home. Please 
follow these instructions: 

 To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 .
 Call your doctor at ___ for:  
 * fever > 100.4  
 * severe abdominal pain  
 * difficulty urinating  
 * vaginal bleeding requiring >1 pad/hr  
 * abnormal vaginal discharge  
 * redness or drainage from incision  
 * nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
 * chest pain or difficulty breathing 
 * onset of any concerning symptoms 

 

 
Followup Instructions:
___